US07091353B2
N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-2-phenoxy-acetamide I-53
To a suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g, 2 mmol) in THF (30 ml) was added phenoxyacetyl chloride (0.55 ml, 4 mmol). The mixture was heated to reflux for 18 hours. The reaction was cooled to room temperature, methanol (2 ml) was added, and the mixture stirred for 1 hour. The solvent was evaporated in vacuo leaving a solid which was slurried in diethyl ether (20 ml) and filtered to give 0.76 g (93%) of product as an off-white solid: mp 236–238 ° C.; 1H NMR (DMSO-d6) d 11.19 (s, 1H), 10.53 (s, 1H), 8.73 (d, J=8.4 Hz, 1H), 7.88 (t, J=7.6 Hz, 1H), 7.64 (d, J=7.3 Hz, 1H), 7.38 (t, J=7.6 Hz, 2H) 7.14–7.01 (m, 3H), 5.21 (dd, J=5.3 and 12.6 Hz, 1H), 4.81 (s, 2H), 3.00–2.86 (m, 1H), 2.67–2.51 (m, 2H), 2.13–2.09 (m, 1H); 13C NMR (DMSO-d6) d 172.77, 169.77, 168.37, 167.59, 166.67, 156.85, 136.58, 135.84, 131.28, 129.74, 124.45, 121.91, 118.50, 116.28, 114.86, 67.03, 49.02, 30.96, 21.93; Anal. Calcd. For C21H17N3O6: C, 61.92; H, 4.21; N, 10.31. Found: C, 61.87; H, 4.27; N, 10.25.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | phenoxyacetyl chloride | 4 mmol, 0.55 ml | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | methanol | 2 ml | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | N-[2-(2,6-Dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-2-phenoxy-acetamide | 0.76 g, 93% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(COC1=CC=CC=C1)=O)=O)=O | C21H17N3O6
